US05578620
3-(N-Methyl-N-phenylamino)-2-hydroxypropylazide
A procedure similar to that described in Preparation 12 was repeated, except that 1.65 g of N-methyl-N-phenylaminomethyloxirane (prepared as described in Preparation 88), 3.29 g of sodium azide, 15 ml of methyl formate and 63 ml of an 8:1 by volume mixture of methanol and water were used, to give 1.9 g of the title compound as a pale yellow oil having an Rf value of 0.09 (on silica gel thin layer chromatography, using a 1:15 by volume mixture of ethyl acetate and hexane as the developing solvent).

reactant | N-methyl-N-phenylaminomethyloxirane | 1.65 g | CN(C1=CC=CC=C1)CC1OC1 | C10H13NO
reactant | sodium azide | 3.29 g | [N-]=[N+]=[N-].[Na+]
reactant | methyl formate | 15 ml | C(=O)OC | C2H4O2
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 3-(N-Methyl-N-phenylamino)-2-hydroxypropylazide | 1.9 g | CN(C1=CC=CC=C1)CC(CN=[N+]=[N-])O | C10H14N4O
